US07414051B2
Preparation of 2-[2-(Naphthalene-1-sulfonyl)-7,8-dihydro-6-oxa-1,8a-diaza-acenaphthylen-4-yloxy]ethanol
A mixture of 2-[7-(2-chloroethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]ethanol (1.18 g, 2.65 mmoles) and triethylamine (0.4 ml, 2.65 mmoles) in DMF was stirred overnight at 70° C., cooled to room temperature, diluted with water and extracted with EtOAc. The extracts were combined, washed sequentially with water and brine, dried over Na2SO4 and concentrated under vacuum. The resultant residue was purified by flash chromatography using as eluent 5% CH3OH/EtOAc to afford the title compound (1.03 g, 2.5 mmoles), identified by HNMR and mass spectral analyses.

reactant | 2-[7-(2-chloroethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]ethanol | 2.65 mmoles, 1.18 g | ClCCOC=1C=C(C=C2C(=NNC12)S(=O)(=O)C1=CC=CC2=CC=CC=C12)OCCO | C21H19ClN2O5S
reactant | triethylamine | 2.65 mmoles, 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[2-(Naphthalene-1-sulfonyl)-7,8-dihydro-6-oxa-1,8a-diaza-acenaphthylen-4-yloxy]ethanol | 2.5 mmoles, 1.03 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NN2CCOC=3C=C(C=C1C23)OCCO | C21H18N2O5S
